US05834454
Triethylsilane (3.07 g, 26.4 mmol) was added dropwise to a mixture of ethyl 5,6-dihydro-9-methyl-6-oxo-4H-pyrrolo [3,2,1-ij]quinoline-2-carboxylate (1.70 g, 6.61 mmol) and trifluoroacetic acid (20 ml) at room temperature. Then, the reaction mixture was stirred at room temperature for 3 hours and distilled under reduced pressure to remove the solvent. Ice water was added to the residue, followed by extraction with ethyl acetate (twice). The extract solution was washed with a 5% aqueous sodium hydrogencarbonate solution and then a 5% aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: ethyl acetate/n-hexane= 3/97) to obtain 0.87 g of ethyl 5,6-dihydro-9-methyl-4H-pyrrolo[3,2,1-ij]quinoline-2-carboxylate. M.p. 51°-52° C. (after recrystallization from n-hexane).

reactant | Triethylsilane | 26.4 mmol, 3.07 g | C(C)[SiH](CC)CC | C6H16Si
reactant | ethyl 5,6-dihydro-9-methyl-6-oxo-4H-pyrrolo [3,2,1-ij]quinoline-2-carboxylate | 6.61 mmol, 1.70 g | CC1=CC=C2C(CCN3C2=C1C=C3C(=O)OCC)=O | C15H15NO3
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | ethyl 5,6-dihydro-9-methyl-4H-pyrrolo[3,2,1-ij]quinoline-2-carboxylate | 0.87 g | CC1=CC=C2CCCN3C2=C1C=C3C(=O)OCC | C15H17NO2
